US09334290B2
A mixture of 3-(3-bromo-2-methylphenyl)-6-fluoro-1-methylquinazoline-2,4(1H,3H)-dione (742 mg, 2.04 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (623 mg, 2.45 mmol), potassium acetate (602 mg, 6.13 mmol) and PdCl2(dppf) DCM adduct (83 mg, 0.102 mmol) in dioxane (20 mL) was heated at 90° C. overnight. The cooled mixture was filtered and the filtrate was concentrated. The residue was purified by column chromatography on silica gel (120 g), eluting with EtOAc-hexanes (gradient from 0-40%), to give 6-fluoro-1-methyl-3-(2-methyl -3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)quinazoline-2,4(1H,3H) -dione (866 mg), used without further purification. Mass spectrum m/z 411 (M+H)+.

reactant | 3-(3-bromo-2-methylphenyl)-6-fluoro-1-methylquinazoline-2,4(1H,3H)-dione | 2.04 mmol, 742 mg | BrC=1C(=C(C=CC1)N1C(N(C2=CC=C(C=C2C1=O)F)C)=O)C | C16H12BrFN2O2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 2.45 mmol, 623 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 6.13 mmol, 602 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) DCM | 0.102 mmol, 83 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 6-fluoro-1-methyl-3-(2-methyl -3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)quinazoline-2,4(1H,3H) -dione | 866 mg | FC=1C=C2C(N(C(N(C2=CC1)C)=O)C1=C(C(=CC=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C22H24BFN2O4
